US09107916B2
B. methyl 1-(4-cyanopyridin-2-yl)-5-(4-methylphenyl)-1H-pyrazole-3-carboxylate
A solution of methyl 4-(4-methylphenyl)-2,4-dioxobutanoate (500 mg, 22.7 mmol) and 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (500 mg, 24.2 mmol, PREPARATION 3) in AcOH (10 mL) was heated at 100° C. for 30 min and cooled to rt. The solution was concentrated to an oily residue which was partitioned between EtOAc (50 mL) and water (50 mL). The pH was adjusted to pH=8 using a saturated aq. Na2CO3 solution. The organics were dried (MgSO4), filtered, and concentrated to give a solid which was triturated with MTBE/hexanes (1:1) and filtered to give the title compound (613 mg, 85%) as a yellow solid. 1H NMR (400 MHz, CD3OD): δ 2.48 (3H, s), 3.92 (3H, s), 7.01 (1H, s), 7.08-7.21 (4H, m), 7.71 (1H, d, J=4.8 Hz), 8.12 (1H, s), 8.48 (1H, d, J=4.8 Hz), 8.00 (1H, s), 8.48 (1H, d, J=8 Hz).

reactant | methyl 4-(4-methylphenyl)-2,4-dioxobutanoate | 22.7 mmol, 500 mg | CC1=CC=C(C=C1)C(CC(C(=O)OC)=O)=O | C12H12O4
reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | 24.2 mmol, 500 mg | Cl.N(N)C1=NC=CC(=C1)C#N
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | methyl 1-(4-cyanopyridin-2-yl)-5-(4-methylphenyl)-1H-pyrazole-3-carboxylate | 613 mg, 85% | C(#N)C1=CC(=NC=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(=O)OC | C18H14N4O2
